US06066657
7-Methoxy-2-(1-methyl-piperidin-4-yloxymethyl)-benzofuran-4-carboxylic Acid 4-nitrophenyl Ester
Prepared from 7-methoxy-2-(1-methyl-piperidin-4-yloxymethyl)-benzofuran-4-carboxylic acid (1.9 g), 4-nitrophenol (835 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.15 g) and 4-dimethylaminopyridine (catalytic amount) in dichloromethane (40 ml). Purification by column chromatography eluting with 10% methanol in dichloromethane afforded the desired product as a pale yellow solid (720 mg).

reactant | 7-methoxy-2-(1-methyl-piperidin-4-yloxymethyl)-benzofuran-4-carboxylic acid | 1.9 g | COC=1C=CC(=C2C=C(OC21)C(C)OC2CCNCC2)C(=O)O | C17H21NO5
reactant | 4-nitrophenol | 835 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.15 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 7-Methoxy-2-(1-methyl-piperidin-4-yloxymethyl)-benzofuran-4-carboxylic Acid 4-nitrophenyl Ester | 720 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C=CC(=C2C1C=C(O2)C(C)OC2CCNCC2)OC | C23H24N2O7
